US04001412
To a solution of 2.11 g of 2-trichloroacetamido-3-(o-fluorobenzoyl)thiophene in 18 ml of dimethylsulfoxide was added 0.89 g of ammonium acetate. The mixture was heated at 95° C for 2 hours and poured into ice water, and extracted with dichloromethane. The dichloromethane layer was washed with water, dried over sodium sulfate and the solvent was removed under reduced pressure. The residue was chromatographed on 60 g of Silica gel, using ethyl acetate as an eluent to obtain 4-(o-fluorophenyl)-1,2-dihydrothieno(2,3-d)-pyrimidin-2-one as crystals having a melting point of 272°-275° C. Recrystallization from acetone gave crystals melting at 247.5°- 249° C. The following compounds were prepared similarly:

reactant | 2-trichloroacetamido-3-(o-fluorobenzoyl)thiophene | 2.11 g | ClC(C(=O)NC=1SC=CC1C(C1=C(C=CC=C1)F)=O)(Cl)Cl | C13H7Cl3FNO2S
reactant | ammonium acetate | 0.89 g | C(C)(=O)[O-].[NH4+]
solvent | dimethylsulfoxide | 18 ml | CS(=O)C | C2H6OS
product | 4-(o-fluorophenyl)-1,2-dihydrothieno(2,3-d)-pyrimidin-2-one | FC1=C(C=CC=C1)C=1C2=C(NC(N1)=O)SC=C2 | C12H7FN2OS
